US06855710B2
a) 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone
6.15 g (20 mmol) of 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone are suspended in a little ethanol. 10 ml of 4N sodium hydroxide solution are added and the mixture is stirred for 1.5 hours at ambient temperature. After the addition of 100 ml of water the precipitate is suction filtered, washed with water and a little ether and dried at 80° C.

reactant | 1-acetyl-3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | 20 mmol, 6.15 g | C(C)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)OCC)=O | C19H17NO3
reactant | ethanol | C(C)O | C2H6O
reactant | sodium hydroxide | 4N, 10 ml | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 3-(1-ethoxy-1-phenyl-methylidene)-2-indolinone | C(C)OC(C1=CC=CC=C1)=C1C(NC2=CC=CC=C12)=O | C17H15NO2
